US04031093
Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate (use of K2CO3 in place of alkali metal alkoxide)
Diethyl ethoxymethylenemalonate (6.42 g., 0.03 mole) was added to a stirred mixture of 2-isobutoxybenzamidine (5.76 g., 0.03 mole) and potassium carbonate (4.14 g., 0.03 mole) in ethanol (70 ml.). The mixture was heated under reflux for 4 hours. The cooled mixture was added to water (100 ml.) which was then acidified to pH 8 with 6N hydrochloric acid and then to pH 5 with glacial acetic acid. The title compound was collected by filtration, washed with water, and dried. The product (6.76 g., 71%) had m.p. 88°-90°.

reactant | Diethyl ethoxymethylenemalonate | 0.03 mole, 6.42 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 2-isobutoxybenzamidine | 0.03 mole, 5.76 g | C(C(C)C)OC1=C(C(=N)N)C=CC=C1 | C11H16N2O
reactant | potassium carbonate | 0.03 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC(C)C)C(=O)OCC | C17H20N2O4
